### PR TITLE
[Merged by Bors] - feat(ContinuousFunctionalCalculus): `‖sqrt a‖ = sqrt ‖a‖` and `‖a ^ r‖ = ‖a‖^r` for an isometric CFC

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that `‖sqrt a‖ = sqrt ‖a‖` and `‖a ^ r‖ = ‖a‖ ^ r` when `a` is an element of an algebra that admits an isometric continuous functional calculus.

We also rename the file `Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow` to `Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow.Basic`, in order to put the new results in a new file with heavier imports. I think the new folder makes sense, especially since we'll need to do something like that anyway soon for the operator monotonicity and convexity/concavity results that depend on integral representations.

---

- [ ] depends on: #20882 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean [hunk 1]
```diff
@@ -502,6 +504,29 @@ lemma pow_antitone {a : A} (ha₀ : 0 ≤ a := by cfc_tac) (ha₁ : a ≤ 1) :
   peel ha₁ with x hx _
   exact pow_le_pow_of_le_one (spectrum_nonneg_of_nonneg ha₀ hx) (ha₁ x hx) hnm
 
+lemma _root_.nnnorm_cfc_of_monotoneOn [Nontrivial A] (a : A) (f : ℝ≥0 → ℝ≥0)
+    (hf : MonotoneOn f (spectrum ℝ≥0 a)) (hf₂ : ContinuousOn f (spectrum ℝ≥0 a) := by cfc_cont_tac)
+    (ha : 0 ≤ a := by cfc_tac) : ‖cfc f a‖₊ = f ‖a‖₊ := by
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:509]: I'm open to putting this lemma and the next somewhere else, I couldn't really think of a better place. Also, I don't think the extra import here is a big deal, but I could be convinced otherwise.

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:509]: I've generalized this in #20882

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/CStar.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+continuous functional calculus, rpow, sqrt
+-/
+
+open scoped NNReal
+
+namespace CFC
+
+section nonunital
+
+variable {A : Type*} [NonUnitalCStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/CStar.lean:30]: After the generalization in #20882, I suspect that this can be generalized to `NonUnitalIsometricContinuousFunctionalCalculus`.

**Review by j-loreaux — COMMENTED** [review]
As for file placement, I think our approach should be:

1. For material about generic continuous functional calculus material that *does not* import `Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Basic`, we should place that in `Analysis.SpecialFunctions.ContinuousFunctionalCalculus`.
2. For material (even about the same functions), that *does* import the `Basic` file, this should go in the existing folder: `Analysis.CStarAlgebra.SpecialFunctions`.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/CStar.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/CStar.lean]: Indeed it can be generalized. I've renamed the new file from `CStar.lean` to `Isometric.lean`.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+  [NonUnitalIsometricContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+
+lemma nnnorm_nnrpow (a : A) (r : ℝ≥0) (hr : 0 < r) (ha : 0 ≤ a) : ‖a ^ r‖₊ = ‖a‖₊ ^ (r : ℝ) := by
+  simp only [nnrpow_def]
+  rw [MonotoneOn.nnnorm_cfcₙ _ _ (Monotone.monotoneOn (NNReal.monotone_nnrpow_const r) _)]
+
+lemma norm_nnrpow (a : A) (r : ℝ≥0) (hr : 0 < r) (ha : 0 ≤ a) : ‖a ^ r‖ = ‖a‖ ^ (r : ℝ) := by
+  have h₁ : ‖a ^ r‖ = (‖a ^ r‖₊ : ℝ) := rfl
+  rw [h₁, nnnorm_nnrpow a r hr ha]
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean:41]:
```suggestion
lemma norm_nnrpow (a : A) {r : ℝ≥0} (hr : 0 < r) (ha : 0 ≤ a := by cfc_tac) :
    ‖a ^ r‖ = ‖a‖ ^ (r : ℝ) :=
  congr(NNReal.toReal $(nnnorm_nnrpow a hr ha))
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean [hunk 4]
```diff
@@ -0,0 +1,78 @@
...
+
+lemma nnnorm_sqrt (a : A) (ha : 0 ≤ a) : ‖sqrt a‖₊ = NNReal.sqrt ‖a‖₊ := by
+  rw [sqrt_eq_nnrpow]
+  calc _ = ‖a‖₊ ^ (1 / 2 : ℝ) := by exact nnnorm_nnrpow a _ (by norm_num) ha
+    _ = NNReal.sqrt ‖a‖₊ := Eq.symm (NNReal.sqrt_eq_rpow ‖a‖₊)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean:46]:
```suggestion
lemma nnnorm_sqrt (a : A) (ha : 0 ≤ a := by cfc_tac) : ‖sqrt a‖₊ = NNReal.sqrt ‖a‖₊ := by
  rw [sqrt_eq_nnrpow, NNReal.sqrt_eq_rpow]
  exact nnnorm_nnrpow a (by norm_num) ha
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+
+lemma norm_sqrt (a : A) (ha : 0 ≤ a) : ‖sqrt a‖ = Real.sqrt ‖a‖ := by
+  have hmain : ‖sqrt a‖₊ = (⟨Real.sqrt ‖a‖, by positivity⟩ : ℝ≥0) := by
+    calc _ = NNReal.sqrt ‖a‖₊ := nnnorm_sqrt a ha
+      _ = _ := by rw [← norm_toNNReal]; rfl
+  have h₁ : ‖sqrt a‖ = (‖sqrt a‖₊ : ℝ) := rfl
+  rw [h₁, hmain]
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean:54]:
```suggestion
lemma norm_sqrt (a : A) (ha : 0 ≤ a := by cfc_tac) : ‖sqrt a‖ = Real.sqrt ‖a‖ := by
  simpa using congr(NNReal.toReal $(nnnorm_sqrt a ha))
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+
+variable {A : Type*} [NormedRing A] [StarRing A] [NormedAlgebra ℝ A]
+  [PartialOrder A] [StarOrderedRing A] [NonnegSpectrumClass ℝ A]
+  [IsometricContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+
+lemma nnnorm_rpow (a : A) (r : ℝ) (hr : 0 < r) (ha : 0 ≤ a) : ‖a ^ r‖₊ = ‖a‖₊ ^ r := by
+  let r' : ℝ≥0 := ⟨r, by positivity⟩
+  have hr' : 0 < r' := by exact_mod_cast hr
+  show ‖a ^ (r' : ℝ)‖₊ = ‖a‖₊ ^ (r' : ℝ)
+  rw [← nnrpow_eq_rpow hr', nnnorm_nnrpow a r' hr' ha]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean:68]:
```suggestion
lemma nnnorm_rpow (a : A) {r : ℝ} (hr : 0 < r) (ha : 0 ≤ a := by cfc_tac) :
    ‖a ^ r‖₊ = ‖a‖₊ ^ r := by
  lift r to ℝ≥0 using hr.le
  rw [← nnrpow_eq_rpow, ← nnnorm_nnrpow a]
  all_goals simpa
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+
+lemma norm_rpow (a : A) (r : ℝ) (hr : 0 < r) (ha : 0 ≤ a) : ‖a ^ r‖ = ‖a‖ ^ r := by
+  let r' : ℝ≥0 := ⟨r, by positivity⟩
+  have hr' : 0 < r' := by exact_mod_cast hr
+  show ‖a ^ (r' : ℝ)‖ = ‖a‖ ^ (r' : ℝ)
+  rw [← nnrpow_eq_rpow hr', norm_nnrpow a r' hr' ha]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Isometric.lean:74]:
```suggestion
lemma norm_rpow (a : A) {r : ℝ} (hr : 0 < r) (ha : 0 ≤ a := by cfc_tac) :
    ‖a ^ r‖ = ‖a‖ ^ r :=
  congr(NNReal.toReal $(nnnorm_rpow a hr ha))
```

**Review by j-loreaux — COMMENTED** [review]
All the the suggestions below are of the form:

1. make `r` implicit
2. autoparam for `0 ≤ a`
3. :golfing:

If you agree with them all:

bors d+
